US07582652B2
1-Benzyl-2-methyl-5-bromo-1H-imidazole
Add N-bromosuccinimide (7.85 g, 44 mmol) to a solution of 1-benzyl-2-methyl-1H-imidazole (8.0 g, 46 mmol) in chloroform (200 mL) and stir for 6 h. Wash with saturated aqueous sodium hydrogen carbonate and saturated aqueous NaCl, dry over MgSO4, and filter through a pad of silica gel. Concentrate filtrate and suspend the residue in diethyl ether (600 mL), heat to reflux, and filter hot. Concentrate ether filtrate to give the title compound as a tan solid (9.3 g).

reactant | N-bromosuccinimide | 44 mmol, 7.85 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-benzyl-2-methyl-1H-imidazole | 46 mmol, 8.0 g | C(C1=CC=CC=C1)N1C(=NC=C1)C | C11H12N2
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyl-2-methyl-5-bromo-1H-imidazole | 9.3 g | C(C1=CC=CC=C1)N1C(=NC=C1Br)C | C11H11BrN2
